US06777409B2
5.3 g of 4-(3-fluorophenyl)-4-methyl-2-oxovaleric acid-ethyl ester in 60 ml of dimethylformamide is combined at 0° C. with 3.25 g of cesium carbonate and 4.63 ml of trifluoromethyl(trimethyl)-silane. After 1 hour at 0° C. and 16 hours at room temperature, it is cooled again to 0° C. and mixed with 20 ml of a 1 M tetrabutylammonium fluoride solution in tetrahydrofuran. After 30 minutes at 0° C., 2N sulfuric acid and ethyl acetate are added to it, the ethyl acetate phase is washed with water, dried (Na2SO4) and concentrated by evaporation. After chromatography on silica gel hexane-ethyl acetate (20:1) and bulb tube distillation, 4.45 g of 4-(3-fluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid-ethyl ester is obtained (boiling point 100° C./0.04 hpa).

reactant | 4-(3-fluorophenyl)-4-methyl-2-oxovaleric acid-ethyl ester | 5.3 g | C(C)OC(C(CC(C)(C)C1=CC(=CC=C1)F)=O)=O | C14H17FO3
reactant | cesium carbonate | 3.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trifluoromethyl(trimethyl)-silane | 4.63 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-fluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleric acid-ethyl ester | 4.45 g | C(C)OC(C(CC(C)(C)C1=CC(=CC=C1)F)(C(F)(F)F)O)=O | C15H18F4O3
